US08198453B2
To a round bottom flask, Et3N (303 g, 3 mol) was added dropwise to a stirred solution of Boc2O (261.6 g, 1.2 mol) and 2-amino-pentanedioic acid 5-methyl ester (161 g, 1 mol) in water (800 ml) and dioxane (800 ml). After 18 hr the solution was extracted with petroleum ether (2×1000 ml) and the aqueous phase was cooled on ice and carefully acidified to pH 3 by slow addition of 10% citric acid solution. The urethane was then extracted into EtOAc (3×1000 ml) and the combined extracts were washed with brine, then dried (Na2SO4), filtered and concentrated under reduced pressure to give (S)-2-(tert-butoxycarbonylamino)-5-methoxy-5-oxopentanoic acid (238 g, 91.2%), which was used without further purification.

reactant | Et3N | 3 mol, 303 g | CCN(CC)CC | C6H15N
reactant | Boc2O | 1.2 mol, 261.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-pentanedioic acid 5-methyl ester | 1 mol, 161 g | COC(CCC(C(=O)O)N)=O | C6H11NO4
solvent | water | 800 ml | O | H2O
solvent | dioxane | 800 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(tert-butoxycarbonylamino)-5-methoxy-5-oxopentanoic acid | 238 g, 91.2% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCC(=O)OC | C11H19NO6
